US07446102B2
Benzyl{(4S)-4-[(tert-butoxycarbonyl)amino]-5-hydroxypentyl}carbamate
Preparation takes place in analogy to Example 83A from 1.0 g (2.73 mmol) of N5-[(benzyloxy)carbonyl]-N2-(tert-butoxycarbonyl)-L-ornithine in 35 ml of tetrahydrofuran with 0.276 g (2.73 mmol) of 4-methylmorpholine, 0.296 g (2.73 mmol) of ethyl chloroformate and 5.5 ml (5.5 mmol) of a 1M solution of lithium aluminum hydride in tetrahydrofuran. The product is purified by preparative HPLC (Kromasil, mobile phase acetonitrile/0.25% aqueous trifluoroacetic acid 5:95→95:5).

reactant | N5-[(benzyloxy)carbonyl]-N2-(tert-butoxycarbonyl)-L-ornithine | 2.73 mmol, 1.0 g | C(C1=CC=CC=C1)OC(=O)NCCC[C@H](NC(=O)OC(C)(C)C)C(=O)O | C18H26N2O6
reactant | 4-methylmorpholine | 2.73 mmol, 0.276 g | CN1CCOCC1 | C5H11NO
reactant | ethyl chloroformate | 2.73 mmol, 0.296 g | ClC(=O)OCC | C3H5ClO2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
product | Benzyl{(4S)-4-[(tert-butoxycarbonyl)amino]-5-hydroxypentyl}carbamate | C(C1=CC=CC=C1)OC(NCCC[C@@H](CO)NC(=O)OC(C)(C)C)=O | C18H28N2O5
